### PR TITLE
feat: begin to add translation of Taylor-Kim chapter 21

### PR DESCRIPTION
**Pull request by kbuzzard**

### CODE REVIEW

File: FLT/GL2/Subgroups.lean [hunk 1]
```diff
@@ -0,0 +1,151 @@
...
+def UpperTriangular (k : Type*) [CommRing k] : Subring (Matrix (Fin 2) (Fin 2) k) where
+  carrier := {M | M.BlockTriangular id}
+  mul_mem' := sorry
+  one_mem' := sorry
+  add_mem' := sorry
+  zero_mem' := sorry
+  neg_mem' := sorry
+
+lemma mem_upperTriangular_iff {k : Type*} [CommRing k] (M : Matrix (Fin 2) (Fin 2) k) :
+    M ∈ UpperTriangular k ↔ M 1 0 = 0 := sorry
```
Comment (Ruben-VandeVelde) [inline FLT/GL2/Subgroups.lean]:
```suggestion
    M ∈ UpperTriangular k ↔ M 1 0 = 0 := by
  simp only [UpperTriangular, Matrix.BlockTriangular, id_eq, Subring.mem_mk, Subsemiring.mem_mk,
    Submonoid.mem_mk, Subsemigroup.mem_mk, Set.mem_setOf_eq, Fin.isValue]
  refine ⟨fun h => h Fin.zero_lt_one, fun h ⦃i j⦄ hij => ?_⟩
  fin_cases i <;> fin_cases j <;> simp_all
```

File: FLT/GL2/Subgroups.lean [hunk 2]
```diff
@@ -0,0 +1,151 @@
...
+
+namespace M2
+
+def UpperTriangular (k : Type*) [CommRing k] : Subring (Matrix (Fin 2) (Fin 2) k) where
+  carrier := {M | M.BlockTriangular id}
+  mul_mem' := sorry
+  one_mem' := sorry
+  add_mem' := sorry
+  zero_mem' := sorry
+  neg_mem' := sorry
```
Comment (Ruben-VandeVelde) [inline FLT/GL2/Subgroups.lean]:
```suggestion
  mul_mem' {a b} ha hb := by simp_all [Matrix.BlockTriangular.mul]
  one_mem' := by simp_all [Matrix.blockTriangular_one]
  add_mem' {a b} ha hb := by simp_all [Matrix.BlockTriangular.add]
  zero_mem' := by simp_all [Matrix.blockTriangular_zero]
  neg_mem' {a} ha := by simp_all [Matrix.BlockTriangular.neg]
```

File: FLT/GL2/Subgroups.lean [hunk 3]
```diff
@@ -0,0 +1,151 @@
...
+-- do we need this?
+example (A : Type*) [Ring A] (R : Subring A) (n : Type*) [Fintype n] [DecidableEq n] :
+    Matrix n n R ≃+* (R.matrix : Subring (Matrix n n A)) := sorry
+
+example : 𝒪[K] →+* K := 𝒪[K].subtype
+example : 𝒪[K] →+* 𝓀[K] := IsLocalRing.residue ↥𝒪[K]
+
+namespace M2
+
+def UpperTriangular (k : Type*) [CommRing k] : Subring (Matrix (Fin 2) (Fin 2) k) where
```
Comment (Ruben-VandeVelde) [inline FLT/GL2/Subgroups.lean:57]: Presumably this should be `upperTriangular`

**Review by Ruben-VandeVelde — COMMENTED** [review]
Couldn't resist while waiting for my build to finish :)

File: FLT/GL2/Subgroups.lean (hunk 2 above)
Comment (kbuzzard) [reply FLT/GL2/Subgroups.lean]: Thanks!

**Comment by kbuzzard** [comment]
I've now rewritten the entire course and am going to follow that instead.
